US08541409B2
Phenethyl-carbamic acid-(R)-3-[4-(3,4-dimethoxy-phenyl)-piperazin-1-yl]-3-oxo-1-phenyl-propyl ester
(R)-3-hydroxy-3-phenylpropionic acid (1.0 g, 6.0 mmole) and 3,4-dimethoxy phenyl piperazine (1.18 g, 6.0 mmole) were dissolved in 50 mL of a solvent ‘tetrahydrofuran at a room temperature, and EDC (1.24 g, 6.0 mmole) and HOBt (0.81 g, 6 mmole) were added dropwise to the mixture. Then, the resulting mixture was stirred at 25° C. for 5 hours. The mixture was distilled under a reduced pressure to remove excessive solvents, and the solvent-free mixture was neutralized with 1 normal aqueous sodium chloride solution (20 mL), and 25 mL of ethyl acetate was added to the resulting mixture to separate an organic phase. Then, the prepared organic phase was further extracted twice with 15 mL of ethyl acetate. The organic phase was dried over anhydrous magnesium sulfate (2 g), and filtered, and the resulting filtrate was concentrated under a reduced pressure, and separated and purified with column chromatography (hexane:ethyl acetate=1:1 to 1:10). The resulting reaction product (0.345 g, 1 mmol) was dissolved in tetrahydrofuran (15 mL), and 1,1′-carbodiimidazole (0.325 g, 2 mmol) was then added to the reaction product, and the resulting reaction mixture was stirred at a room temperature for 1 hour. Then, excessive phenethylamine was added to the reaction mixture, and resulting reaction mixture was stirred at a room temperature for additional 2 hours. The reaction mixture was diluted with water, and extracted several times with ethyl acetate to obtain an organic phase. The prepared organic phase was dried over magnesium sulfate, and concentrated under a reduced pressure. The resulting pellet was purified with column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate) to obtain a title compound.

reactant | (R)-3-hydroxy-3-phenylpropionic acid | 6.0 mmole, 1.0 g | O[C@H](CC(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | 3,4-dimethoxy phenyl piperazine | 6.0 mmole, 1.18 g | COC=1C=C(C=CC1OC)N1CCNCC1 | C12H18N2O2
reactant | EDC | 6.0 mmole, 1.24 g
reactant | HOBt | 6 mmole, 0.81 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Phenethyl-carbamic acid-(R)-3-[4-(3,4-dimethoxy-phenyl)-piperazin-1-yl]-3-oxo-1-phenyl-propyl ester | COC=1C=C(C=CC1OC)N1CCN(CC1)C(C[C@H](C1=CC=CC=C1)OC(NCCC1=CC=CC=C1)=O)=O | C30H35N3O5
